US05034404
A mixture of 1.03g of 1-(6-chloro-3-pyridyl)-3methylthiourea, 0.32g of cyanamide, 1.58g of dicyclohexylcarbodiimide, 3 drops of ethyl diisopropylamine and 10ml of acetonitrile was stirred for 34 hours at room temperature and filtered to collect an insoluble substance. The insoluble substance was recrystallized from a mixed solvent cf acetonitrile and methanol, and then from acetonitrile to obtain 0.31g of 1-(6-chloro-pyridyl)-2-cyano-3-methylguanidine (Compound No. 24).

reactant | 1-(6-chloro-3-pyridyl)-3methylthiourea | 1.03g | ClC1=CC=C(C=N1)NC(=S)NC | C7H8ClN3S
reactant | cyanamide | 0.32g | N#CN | CH2N2
reactant | dicyclohexylcarbodiimide | 1.58g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | acetonitrile | 10ml | C(C)#N | C2H3N
catalyst | ethyl diisopropylamine | 3 drops | C(C)N(C(C)C)C(C)C | C8H19N
product | 1-(6-chloro-pyridyl)-2-cyano-3-methylguanidine | 0.31g | ClC1=CC=CC(=N1)NC(=NC#N)NC | C8H8ClN5
